US07319099B2
(c) 3-Piperazin-1-yl-5-trifluoromethyl-pyridazine
4-(5-Trifluoromethyl-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (45 mg) was dissolved in dichloromethane (0.5 mL), and trifluoroacetic acid was added (0.5 mL). The reaction mixture was stirred for 30 minutes before being concentrated in vacuo to afford the crude title compound which was used directly in the next step without further purification or analysis.

reactant | 4-(5-Trifluoromethyl-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 45 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N=NC=C(C1)C(F)(F)F | C14H19F3N4O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 3-Piperazin-1-yl-5-trifluoromethyl-pyridazine | N1(CCNCC1)C=1N=NC=C(C1)C(F)(F)F | C9H11F3N4
